US04735956
4-Methyl-2,1-benzisoxazole (1)
To a solution of 49.64 g (220 mmoles) stannous chloride dihydrate in 132 ml concentrated hydrochloric acid cooled to 15° was added 9.08 g (55.0 mmoles) of 6-methyl-2-nitrobenzaldehyde with rapid stirring. After 2 hours the mixture was diluted with 250 ml water and extracted with 3×150 ml ether. The extract was washed successively with dilute sodium bicarbonate solution, water, and brine, dried, and concentrated to give 6.78 g oil. The oil was flash chromatographed, eluting with chloroform to give 6.10 g (83%) (1) as an oil; nmr (deuteriochloroform): 2.5 (s, 3H), 6.7 (dd, 1H), 7.3 (m, 2H), 9.1 (s, 1H).

reactant | 6-methyl-2-nitrobenzaldehyde | 55.0 mmoles, 9.08 g | CC1=CC=CC(=C1C=O)[N+](=O)[O-] | C8H7NO3
solvent | hydrochloric acid | 132 ml | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 4-Methyl-2,1-benzisoxazole | 6.78 g | CC1=CC=CC=2C1=CON2 | C8H7NO
